US04035341
Tetrabenzyl ammonium para-toluene sulfonate is prepared from benzyl para-toluene sulfonate and tribenzylamine.

reactant | benzyl para-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1=CC=CC=C1)C | C14H14O3S
reactant | tribenzylamine | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H21N
product | Tetrabenzyl ammonium para-toluene sulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)[N+](CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C28H28N.C7H8O3S/c1-5-13-25(14-6-1)21-29(22-26-15-7-2-8-16-26,23-27-17-9-3-10-18-27)24-28-19-11-4-12-20-28;1-6-2-4-7(5-3-6)11(8,9)10/h1-20H,21-24H2;2-5H,1H3,(H,8,9,10)/q+1;/p-1
